US09120788B2
Step 2. Synthesis of N2-(4-chloro-3,5-difluorophenyl)pyridine-2,3-diamine (C18)
To a solution of N-(4-chloro-3,5-difluorophenyl)-3-nitropyridin-2-amine (C17) (100 mg, 0.35 mmol) in a 1:1 mixture of tetrahydrofuran and water (20 mL) was added ammonium chloride (148 mg, 2.77 mmol) followed by zinc (182 mg, 2.78 mmol), and the reaction mixture was stirred at room temperature for 2 hours. It was then diluted with water (10 mL) and extracted with ethyl acetate (3×20 mL); the combined organic layers were washed with saturated aqueous sodium chloride solution (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford the product as a yellow solid. This material was used directly in the following step. Yield: 80 mg, 0.31 mmol, 89%.

reactant | N-(4-chloro-3,5-difluorophenyl)-3-nitropyridin-2-amine | 0.35 mmol, 100 mg | ClC1=C(C=C(C=C1F)NC1=NC=CC=C1[N+](=O)[O-])F | C11H6ClF2N3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ammonium chloride | 2.77 mmol, 148 mg | [Cl-].[NH4+]
solvent | water | 10 mL | O | H2O
catalyst | zinc | 2.78 mmol, 182 mg | [Zn] | Zn
solvent | water | 20 mL | O | H2O
product | N2-(4-chloro-3,5-difluorophenyl)pyridine-2,3-diamine | ClC1=C(C=C(C=C1F)NC1=NC=CC=C1N)F | C11H8ClF2N3
